US07365066B2
N′-{2-Fluoro-5-[2-(6-methyl-pyridin-2-yl)-pyrazolo[1,5-a]pyridin-3-yl]-benzyl}-N,N-dimethyl-ethane-1,2-diamine
A solution of 2-fluoro-5-[2-(6-methyl-pyridin-2-yl)-pyrazolo[1,5-a]pyridin-3-yl]-benzaldehyde (0.05 g, 0.15 mmol), N,N-dimethyl-ethylenediamine (0.013 g, 0.15 mmol), trimethyl orthoformate (2 mL) in MeOH (5 mL) is stirred for 2 hours at room temperature. The reaction is then treated with sodium borohydride (6.8 mg, 0.18 mmol) and stirred overnight. The reaction is then quenched with 2N NaOH and stirred for 30 minutes. The solution is diluted in CH2Cl2 and washed with saturated aqueous NaHCO3, brine, and dried over sodium sulfate. The solvent is removed in vacuo to afford 0.06 g (100%) of desired product. MS ES+ m/e 404.1 (M+1).

reactant | 2-fluoro-5-[2-(6-methyl-pyridin-2-yl)-pyrazolo[1,5-a]pyridin-3-yl]-benzaldehyde | 0.15 mmol, 0.05 g | FC1=C(C=O)C=C(C=C1)C=1C(=NN2C1C=CC=C2)C2=NC(=CC=C2)C | C20H14FN3O
reactant | N,N-dimethyl-ethylenediamine | 0.15 mmol, 0.013 g | CN(CCN)C | C4H12N2
reactant | trimethyl orthoformate | 2 mL | C(OC)(OC)OC | C4H10O3
reactant | sodium borohydride | 0.18 mmol, 6.8 mg | [BH4-].[Na+]
solvent | MeOH | 5 mL | CO | CH4O
product | N′-{2-Fluoro-5-[2-(6-methyl-pyridin-2-yl)-pyrazolo[1,5-a]pyridin-3-yl]-benzyl}-N,N-dimethyl-ethane-1,2-diamine | 0.06 g, 100% | FC1=C(CNCCN(C)C)C=C(C=C1)C=1C(=NN2C1C=CC=C2)C2=NC(=CC=C2)C | C24H26FN5
